US06313312B1
N-[3-(3-{3-Phenylpropyl}-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide
To a solution of 3-[3-(3-phenylpropyl)-3-azabicyclo[3.1.0]hex-6-yl]phenylamine (Preparation 25, 34 mg, 0.11 mmol) in dichloromethane (2 ml) at 0° C. under nitrogen was added pyridine (20 μl, 0.24 mmol) then methanesulfonylchloride (13 mg, 10 μl, 0.11 mmol). The mixture was allowed to warm to room temperature and was stirred for 1.5 hours. The mixture was concentrated in vacuo and the residue was purified by silica (5 g) column chromatography eluting with 80:20:1 ethyl acetate:hexane:ammonia solution (0.880). Product-containing fractions were combined and concentrated in vacuo to give the title compound as a pale yellow oil (29 mg, 71%).

reactant | 3-[3-(3-phenylpropyl)-3-azabicyclo[3.1.0]hex-6-yl]phenylamine | 0.11 mmol, 34 mg | C1(=CC=CC=C1)CCCN1CC2C(C2C1)C=1C=C(C=CC1)N | C20H24N2
reactant | pyridine | 0.24 mmol, 20 μl | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonylchloride | 0.11 mmol, 10 μl, 13 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-[3-(3-{3-Phenylpropyl}-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide | 29 mg, 71% | C1(=CC=CC=C1)CCCN1CC2C(C2C1)C=1C=C(C=CC1)NS(=O)(=O)C | C21H26N2O2S
